US04364948
e. 1-Ethyl-4-(3-hydroxy-n-butylamino)-6-methyl-1H-pyrazolo-[3,4-b]pyridine-5-carboxylic acid ethyl ester
2.75 each of 4-chloro-1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester and 3-hydroxy-n-butylamine are combined with 15.6 ml of dry toluene under N2 and heated at 45° C. for 48 hours. The mixture was cooled to room temperature and the toluene layer was decanted from the oil that separated out. The toluene layer was washed with water and then dried and concentrated in vacuo to yield 3.7 g of product which crystallized on trituration with hexane. This was recrytallized from hexane to yield 1.91 g of white product mp 94.5°-96.5° C.

reactant | 4-chloro-1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1C)N(N=C2)CC)Cl | C12H14ClN3O2
reactant | 3-hydroxy-n-butylamine | OC(CCN)C | C4H11NO
solvent | toluene | 15.6 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Ethyl-4-(3-hydroxy-n-butylamino)-6-methyl-1H-pyrazolo-[3,4-b]pyridine-5-carboxylic acid ethyl ester | 3.7 g | C(C)OC(=O)C=1C(=C2C(=NC1C)N(N=C2)CC)NCCC(C)O | C16H24N4O3
